US04409017
A mixture of 3,7-dichloroisoquinoline (5.59 g), sodium 4-methoxyphenoxide (4.55 g), potassium carbonate (3.86 g) copper powder (50 mg) and trace of copper oxide were heated at 180° C. for 14 hrs. the mixture was then cooled and extracted with ethyl acetate, which in turn was washed with water, dried (MgSO4) and evaporated to give a crude brown solid. Purification by column chromatography over silica gel gave 7-chloro-3-(4-methoxyphenoxy)isoquinoline (3.70 g) as a tan solid, mp 77° C.

reactant | 3,7-dichloroisoquinoline | 5.59 g | ClC=1N=CC2=CC(=CC=C2C1)Cl | C9H5Cl2N
reactant | sodium 4-methoxyphenoxide | 4.55 g | COC1=CC=C([O-])C=C1.[Na+]
reactant | potassium carbonate | 3.86 g | C([O-])([O-])=O.[K+].[K+]
catalyst | copper oxide | [Cu]=O
product | 7-chloro-3-(4-methoxyphenoxy)isoquinoline | 3.70 g | ClC1=CC=C2C=C(N=CC2=C1)OC1=CC=C(C=C1)OC | C16H12ClNO2
